US07592358B2
50.1c. (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl)cyclopentylamine
The product was prepared analogously to Example 1.1g from 60 mg (0.15 mmol) of 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl methanesulfonate and 0.03 mL (0.30 mmol) of cyclopentylamine (6 hours at 50° C., potassium carbonate as base). Yield: 20 mg (34% of theoretical); C26H25ClN2 (M=400.943); calc.: molpeak (M+H)+:401/403 (Cl); found: molpeak (M+H)+:401/403 (Cl); HPLC-MS: 5.0 minutes (method H).

reactant | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl methanesulfonate | 0.15 mmol, 60 mg | CS(=O)(=O)OCCC1=CC=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C22H18ClNO3S
reactant | cyclopentylamine | 0.30 mmol, 0.03 mL | C1(CCCC1)N | C5H11N
product | (2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl)cyclopentylamine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)CCNC1CCCC1 | C26H25ClN2
